US07671054B1
(1) Preparation of Benzothiazol-4-ylmethyl-(2,2-diethoxy-ethyl)-amine
To a solution of Benzothiazole-4-carbaldehyde (1.96 g, 12 mmol) in MeOH (50 mL) was added aminoacetaldehyde diethyl acetal (1.74 mL, 12 mmol) and acetic acid (1.03 mL, 18 mmol). The reaction mixture was stirred at room temperature for 1 h. The reaction mixture was added to a stirred solution of sodium cyanoborohydride (816 mg, 13 mmol). The reaction mixture was stirred at room temperature for 12 h. The reaction mixture was concentrated under reduced pressure. Then H2O and ethyl acetate were added to the reaction mixture. The organic layer was washed with H2O and brine, dried over Na2SO4, and concentrated under reduced pressure. The crude compound was used next step without further purification.

reactant | Benzothiazole-4-carbaldehyde | 12 mmol, 1.96 g | S1C=NC=2C1=CC=CC2C=O | C8H5NOS
reactant | aminoacetaldehyde diethyl acetal | 12 mmol, 1.74 mL | C(C)OC(CN)OCC | C6H15NO2
reactant | acetic acid | 18 mmol, 1.03 mL | C(C)(=O)O | C2H4O2
reactant | sodium cyanoborohydride | 13 mmol, 816 mg | C(#N)[BH3-].[Na+]
solvent | MeOH | 50 mL | CO | CH4O
product | Benzothiazol-4-ylmethyl-(2,2-diethoxy-ethyl)-amine | S1C=NC2=C1C=CC=C2CNCC(OCC)OCC | C14H20N2O2S
